US09065058B2
Step 2: Synthesis of 3-(6-Phenyldibenzothiophen-4-yl)-9-[4-(10-phenyl-9-anthryl)phenyl]-9H-carbazole (abbreviation: DBTCzPA-IV)
In a 50-mL three-neck flask were put 1.3 g (3.3 mmol) of 9-(4-bromophenyl)-10-phenylanthracene, 1.0 g (2.4 mmol) of 3-(6-phenyldibenzothiophen-4-yl)-9H-carbazole, and 0.95 g (9.9 mmol) of sodium tert-butoxide. After the air in the flask was replaced with nitrogen, to this mixture were added 20 mL of toluene and 0.2 mL of tri(tert-butyl)phosphine (a 10 wt % hexane solution). This mixture was degassed by being stirred while the pressure was reduced. After the degassing, 11 mg (0.18 mmol) of bis(dibenzylideneacetone)palladium(0) was added to this mixture. This mixture was stirred at 110° C. for 6 hours under a nitrogen stream. After the stirring, the aqueous layer of this mixture was subjected to extraction with toluene, and the solution of the extract and the organic layer were combined and washed with saturated brine. The organic layer was dried over magnesium sulfate. This mixture was gravity-filtered, and the filtrate was concentrated to give a solid. The obtained solid was purified by silica gel column chromatography (a developing solvent in which the toluene/hexane ratio was 1:9 and then a developing solvent in which the toluene/hexane ratio was 3:7). The obtained solid was recrystallized from toluene/hexane to give 1.4 g of a pale yellow solid which was the object of the synthesis in a yield of 80%. The synthesis scheme of Step 2 is illustrated in (b-13).

reactant | 9-(4-bromophenyl)-10-phenylanthracene | 3.3 mmol, 1.3 g | BrC1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H17Br
reactant | 3-(6-phenyldibenzothiophen-4-yl)-9H-carbazole | 2.4 mmol, 1.0 g | C1(=CC=CC=C1)C1=CC=CC=2C3=C(SC21)C(=CC=C3)C=3C=CC=2NC1=CC=CC=C1C2C3 | C30H19NS
reactant | sodium tert-butoxide | 9.9 mmol, 0.95 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | 0.2 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.18 mmol, 11 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(6-Phenyldibenzothiophen-4-yl)-9-[4-(10-phenyl-9-anthryl)phenyl]-9H-carbazole | 1.4 g, yield of 80% | C1(=CC=CC=C1)C1=CC=CC=2C3=C(SC21)C(=CC=C3)C=3C=CC=2N(C1=CC=CC=C1C2C3)C3=CC=C(C=C3)C=3C2=CC=CC=C2C(=C2C=CC=CC32)C3=CC=CC=C3 | C56H35NS
